US07514419B2
To a stirred solution of 2,5-dimethyl-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)phenol (intermediate for the synthesis of compound 7-17; 0.35 g, 1.11 mmol) in EtOH (5.0 mL) and CH3NH2 40% in water (2.5 mL) was added iodine (0.34 g, 1.33 mmol) and KI (0.27 g 1.66 mmol) in H2O (3 mL) at 0° C. The reaction mixture was stirred at 0° C. for 2 h, quenched with brine (50 mL) and extracted with ethyl acetate (100 mL×2). The combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (1:3) to afford 2,5-dimethyl-6-iodo-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)phenol as a colorless oil (0.32 g, 64%): 1H NMR (300 MHz, CDCl3): δ 7.02 (d, J=2.4 Hz, 1H), 6.95 (d, J=8.7 Hz, 1H), 6.88 (s, 1H), 6.75 (dd, J=2.4, 8.4 Hz, 1H), 5.20 (s, 2H), 3.95 (s, 2H), 3.51 (s, 3H), 3.35-3.30 (m, 1H), 2.39 (s, 3H), 2.30 (s, 3H), 1.22 (d, J=6.9 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=hexanes-ethylacetate (9:1); Rf=0.6.

reactant | 2,5-dimethyl-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)phenol | CC1=C(C=C(C(=C1)CC1=CC(=C(C=C1)OCOC)C(C)C)C)O | C20H26O3
reactant | CH3NH2 | CN | CH5N
reactant | iodine | 1.33 mmol, 0.34 g | II | I2
solvent | EtOH | 5.0 mL | CCO | C2H6O
solvent | water | 2.5 mL | O | H2O
solvent | H2O | 3 mL | O | H2O
product | 2,5-dimethyl-6-iodo-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)phenol | 0.32 g, 64% | CC1=C(C(=C(C(=C1)CC1=CC(=C(C=C1)OCOC)C(C)C)C)I)O | C20H25IO3
